US09359375B2
A solution of 2,6-dichloro-3-cyano-5-fluoropyridine (134 mg, 0.701 mmol), 2-amino-4,4,4-trifluorobutanamide hydrochloride (135 mg, 0.701 mmol) and DIEA (0.365 mL, 2.10 mmol) in DMSO (3 mL) was stirred at 95 C for 3 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo to give crude 2-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)-4,4,4-trifluorobutanamide (218 mg).

reactant | 2,6-dichloro-3-cyano-5-fluoropyridine | 0.701 mmol, 134 mg | ClC1=NC(=C(C=C1C#N)F)Cl | C6HCl2FN2
reactant | 2-amino-4,4,4-trifluorobutanamide hydrochloride | 0.701 mmol, 135 mg | Cl.NC(C(=O)N)CC(F)(F)F
reactant | DIEA | 2.10 mmol, 0.365 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)-4,4,4-trifluorobutanamide | 218 mg | ClC1=C(C=C(C(=N1)NC(C(=O)N)CC(F)(F)F)F)C#N | C10H7ClF4N4O
